US05109013
1-Cyclohexyl-3-pyrrolidinol
With stirring 1,4-dibromo-2-butanol (696 g, 3 mol) was added dropwise to cyclohexylamine (595 g, 6 mol). The addition was rapid until the reaction temperature reached 130° C. and then slowed so as to maintain the temperature at 130°-135° C. When the addition was completed the mixture was heated at 130° C. for 2 h. The mixture was then poured into 3 L of water with stirring. The aqueous mixture was filtered and the filtrate extracted with 1 L of ether. The aqueous solution was basified with 50% sodium hydroxide solution. The oil which separated from solution was removed. The aqueous layer was extracted with three 400 ml portions of ether and the extract combined with the oil. The ether solution was dried (Na2SO4) and concentrated. The residual oil was distilled and the fraction boiling at 165°-180° C./39 mm was collected. A higher boiling fraction (180°-190° C./39 mm) was collected and redistilled to give some additional material boiling at 165°-180° C./39 mm for a total yield of 329.6 g (77%).

reactant | 1,4-dibromo-2-butanol | 3 mol, 696 g | BrCC(CCBr)O | C4H8Br2O
reactant | cyclohexylamine | 6 mol, 595 g | C1(CCCCC1)N | C6H13N
solvent | water | 3 L | O | H2O
product | 1-Cyclohexyl-3-pyrrolidinol | C1(CCCCC1)N1CC(CC1)O | C10H19NO
